US04224028
7-octenoic acid;
2-heptenoic acid; 3-heptenoic acid; 4-heptenoic acid; 5-hetpenoic acid; 6-heptenoic acid; 2-hexenoic acid;

reactant | 2-heptenoic acid | C(C=CCCCC)(=O)O | C7H12O2
reactant | 3-heptenoic acid | C(CC=CCCC)(=O)O | C7H12O2
reactant | 4-heptenoic acid | C(CCC=CCC)(=O)O | C7H12O2
reactant | 6-heptenoic acid | C(CCCCC=C)(=O)O | C7H12O2
reactant | 2-hexenoic acid | C(C=CCCC)(=O)O | C6H10O2
product | 7-octenoic acid | C(CCCCCC=C)(=O)O | C8H14O2
